US09119868B2
Step 3: 6-(N-(4-Bromo-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide
A stirred suspension of 6-(N-(4-amino-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide (0.421 g, 0.773 mmol) in 25 mL of acetonitrile was treated with 25 mL of 48% aqueous HBr and the resulting suspension cooled in an ice water bath. To the mixture was added a solution of sodium nitrite (0.056 g, 0.812 mmol) in 2 mL of water. After stirring at 0° C. for 30 minutes an additional 14 mg portion of sodium nitrite in 1 mL of water was added. After stirring at 0° C. for another 30 minutes, the mixture was treated with CuBr (0.130 g, 0.906 mmol) in four portions over 5 minutes. The mixture was warmed to 60° C. for 30 minutes and then cooled to RT. The mixture was partitioned between EtOAc and 5% aqueous sodium bisulfite. The EtOAc solution was washed with 5% aqueous sodium bisulfite (2×), saturated aqueous sodium bicarbonate (2×), brine (1×), dried over sodium sulfate and concentrated to dryness at reduced pressure. The crude product was purified by flash chromatography (silica gel, gradient from hexane to 3:7 hexane/EtOAc) followed by recrystallization from hexane/EtOAc to give the title compound (0.212 g, 45%) as a white solid. LCMS (m/z, ES+)=609 (M+H+).

reactant | 6-(N-(4-amino-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide | 0.773 mmol, 0.421 g | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)NC)C=C1C1CC1)Cl | C26H23Cl2N3O4S
reactant | HBr | 25 mL | Br | BrH
reactant | sodium nitrite | 0.812 mmol, 0.056 g | N(=O)[O-].[Na+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | water | 2 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 6-(N-(4-Bromo-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide | 0.212 g, 45% | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)NC)C=C1C1CC1)Cl | C26H21BrCl2N2O4S
